US07576091B2
N′-(6-Dimethylaminomethylene-7-oxo-4, 5,6,7-tetrahydro-benzothiazol-2-yl)-N,N-dimethyl-formamidine
A mixture of 2-amino-5,6-dihydro-4H-benzothiazol-7-one (0.5 g, 3 mmol) and N,N-dimethylformamide dimethyl acetal (1.96 mL, 1.76 g, 14.8 mmol) in EtOH (2 mL) was heated under microwave irradiation (300 W, 150° C.) for 30 min. The mixture was concentrated under vacuum before purification by flash column chromatography (50% EtOAc:hexane) to afford the title product as a tan solid (0.49 g, 59%): mp 185-186° C. Anal. RP-HPLC: tR 9.3 min (0-60% MeCN, purity 100%). 1H-NMR (CDCl3): δ 8.23 (s, 1H, CH), 7.44 (s, 1H, CH), 3.13 (s, 3H, CH3), 3.11 (s, 3H, CH3), 3.08 (s, 6H, N(CH3)2), 3.00 (t, 2H, J 6.6, CH2), 2.83 (t, 2H, J 6.6, CH2). MS (ESI+): m/z 279.15 (M+H)+.

reactant | 2-amino-5,6-dihydro-4H-benzothiazol-7-one | 3 mmol, 0.5 g | NC=1SC2=C(N1)CCCC2=O | C7H8N2OS
reactant | N,N-dimethylformamide dimethyl acetal | 14.8 mmol, 1.96 mL, 1.76 g | COC(N(C)C)OC | C5H13NO2
solvent | EtOH | 2 mL | CCO | C2H6O
product | N′-(6-Dimethylaminomethylene-7-oxo-4, 5,6,7-tetrahydro-benzothiazol-2-yl)-N,N-dimethyl-formamidine | 0.49 g, 59% | CN(C)C=C1C(C2=C(N=C(S2)N=CN(C)C)CC1)=O | C13H18N4OS
